US20010027196A1
Following the method of Bell et al. (J. Heterocyclic Chem. 1983, 20, 41), to a solution of 29.6 g (154 mmol) 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde in 31 acetic acid in a 2-necked flask at room temperature was added dropwise with stirring a solution of 11.8 g (170 mmol) hydroxylamine hydrochloride in 2.31 ethanol. Stirring was continued for 3 h at room temperature during which time crystallisation occurred. The crystals were collected by filtration to afford 26.8 g (84%) 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde oxime as a light yellow crystalline solid. ES-MS m/e (%): 209 ([M{37Cl, 37Cl}-H]−, 20), 207 ([M{37Cl, 35Cl}-H]−, 55), 205 ([M{35Cl, 35Cl}-H]−, 100).

reactant | 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde | 154 mmol, 29.6 g | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydroxylamine hydrochloride | 170 mmol, 11.8 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde oxime | 26.8 g, 84% | NC1=NC(=C(C(=N1)Cl)C=NO)Cl | C5H4Cl2N4O
